US07550469B2
A 22-L, 3-necked, round-bottom flask equipped with a mechanical stirrer, nitrogen bubbler, and a thermocouple probe, was charged with 1.16 kg of 4-ethoxybenzoic acid and 11 L of THF. A total of 1.403 kg (8.65 mole, 1.24 eq) of 1,1′-carbonyldiimidazole was added at ambient temperature in 4 portions (to control CO2 evolution) to attain a conversion of 98% to the activated acid. After the yellow solution was cooled to −5° C., a solution prepared from 684.5 g (7.68 mole, 1.10 eq) of 4-amino-1-butanol in 0.5 L of THF was added over a period of 50 min while maintaining a temperature of −7 to −3° C. The gummy mixture was allowed to warm to room temperature and stir overnight. The light-yellow solution was concentrated (45° C., 50 mbar) to 3.22 kg of an orange oil that was charged to an extractor along with 5.7 kg of 10% HCl and 6 L DCM. The aqueous phase was extracted with 3 L DCM. The DCM extracts were combined, washed with 5 L of 0.5 N HCl, washed with 5 L of saturated aq. NaHCO3, dried (MgSO4), filtered, concentrated (45° C., 25 mbar), and air dried to give 1.52 kg (91.9%) of crude product as a white solid. Impurities were removed by saponification. A 12-L, 3-necked, round-bottom flask equipped with a mechanical stirrer, nitrogen bubbler, and a thermocouple probe, was charged with 1.52 kg of crude product, 5.5 L of IPA and 156.5 g of 50% NaOH. The mixture was heated for 30 min at 55-78° C. After cooling to 37° C., the hazy solution was charged into an extractor along with 7.8 L of water and 17 L of DCM. After the phases were separated, the aqueous layer was is extracted with 6 L of DCM. The organic extracts were combined, washed with 7.8 L-of water, dried (MgSO4), filtered, concentrated (50° C., 25 mbar) and air dried to give 1.453 kg (87.7%) of N-(4-hydroxybutyl)-4-ethoxybenzamide (V-5) as a white lumpy solid.

reactant | 4-ethoxybenzoic acid | 1.16 kg | C(C)OC1=CC=C(C(=O)O)C=C1 | C9H10O3
reactant | 1,1′-carbonyldiimidazole | 8.65 mole, 1.403 kg, 1.24 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | 4-amino-1-butanol | 7.68 mole, 684.5 g, 1.10 eq | NCCCCO | C4H11NO
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
solvent | THF | 11 L | C1CCOC1 | C4H8O
product | N-(4-hydroxybutyl)-4-ethoxybenzamide | 1.453 kg, 87.7% | OCCCCNC(C1=CC=C(C=C1)OCC)=O | C13H19NO3
